US08871766B2
A) methyl 2-(6-chloropyrimidin-4-yl)benzoate
A mixture of methyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (2.0 g), 2,6-dichloropyrimidine (1.4 g), sodium carbonate (2.4 g), tetrakis(triphenylphosphine)palladium(0) (0.44 g), water (2.0 mL) and DME (10 mL) was stirred at 150° C. for 1 hr under microwave irradiation. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.60 g).

reactant | methyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.0 g | CC1(OB(OC1(C)C)C1=C(C(=O)OC)C=CC=C1)C | C14H19BO4
reactant | 2,6-dichloropyrimidine | 1.4 g | ClC1=NC(=CC=N1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 2.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 10 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2.0 mL | O | H2O
product | methyl 2-(6-chloropyrimidin-4-yl)benzoate | 0.60 g | ClC1=CC(=NC=N1)C1=C(C(=O)OC)C=CC=C1 | C12H9ClN2O2
